US05274116
2-(Acetylamino-N-[2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]acetamide
To a solution of 2-amino-N-[2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]acetamide hydrobromide hemihydrate (2.09 g) in 10 ml of anhydrous dimethylformamide and 40 ml of anhydrous DCM were added pyridine (1.89 g) and acetic anhydride (1.22 g). The reaction mixture was stirred at room temperature for 1 hour, subsequently diluted with water and extracted with DCM. The combined organic layers were washed with 5% hydrochloric acid and water, dried over magnesium sulfate and evaporated in vacuo. The residual oil was recrystallized from DCM/ethyl ether affording the product as crystals (1.58 g), m.p. 146°-147° C.

reactant | 2-amino-N-[2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]acetamide hydrobromide hemihydrate | 2.09 g | O.Br.NCC(=O)NN1C(=CC=C1)C(C1=C(C=CC=C1)F)=O.NCC(=O)NN1C(=CC=C1)C(C1=C(C=CC=C1)F)=O.Br
reactant | pyridine | 1.89 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.22 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Acetylamino-N-[2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]acetamide | C(C)(=O)NCC(=O)NN1C(=CC=C1)C(C1=C(C=CC=C1)F)=O | C15H14FN3O3
